US06352993B1
5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-hydroxymethyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine
The same procedures as in Example 32 were repeated using 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methoxymethyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine(0.4 g, 1.0 mmol) and boron tribromide(1M-dichloromethane solution, 4.0 ml, 4.0 mmol) to afford 150 mg of the titled compound.

reactant | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methoxymethyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine | 1.0 mmol, 0.4 g | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)COC | C23H25FN4O
reactant | boron tribromide | 4.0 mmol, 1M, 4.0 ml | B(Br)(Br)Br | BBr3
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-hydroxymethyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine | 150 mg, Yield: 36% | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)CO | C22H23FN4O
